US03975445
2 g. of the 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-yl)-3-methyl-penta-2,4-dien-1-al, 50 mg. of p-toluenesulfonic acid, 2.5 g. of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 40 ml. of toluene was heated to boiling for 5 hours under reflux conditions. After cooling, the mixture is filtered. After evaporation of the filtrate, there is obtained 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-dien-1-al which, after purification by adsorption on silica gel, has a melting point of 91°-93°C.

reactant | 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-yl)-3-methyl-penta-2,4-dien-1-al | O=C1C(C(C(C1)(C)C)C=CC(=CC=O)C)C | C14H20O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3-oxo-2,5,5-trimethyl-cyclopent-1-en-1-yl)-3-methyl-penta-2,4-dien-1-al | O=C1C(=C(C(C1)(C)C)C=CC(=CC=O)C)C | C14H18O2
